US07427612B2
(c) Dimethyl-(4-piperazin-1-yl-[1,3,5]triazin-2-yl)-amine
A solution of 1 mmol of 4-(4-Dimethylamino-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 10 ml dichloromethane was chilled and treated with 14 mmol of trifluoroacetic acid. The reaction mixture was heated to 40° C. for 30 min. After cooling, 50 ml of 2M aqueous sodium hydroxide is added. The organic layer was separated, dried and concentrated to yield the title compound as a yellowish oil. MS (m/e): 267.0 (M+CH3COO+, 100%)

reactant | 4-(4-Dimethylamino-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)N(C)C | C14H24N6O2
reactant | trifluoroacetic acid | 14 mmol | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2M, 50 ml | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Dimethyl-(4-piperazin-1-yl-[1,3,5]triazin-2-yl)-amine | CN(C1=NC=NC(=N1)N1CCNCC1)C | C9H16N6
